US04762548
N,N-bis-(3-chloroallyl) dichloromaleic monoamide
Dichloromaleic anhydride (1.7 g, 0.01 mol) and 30 ml methylene chloride were stirred under a mild reflux. Bis-(3-chloroallyl)amine (1.7 g, 0.01 mol) was then added. The exothermic reaction yielded a clear solution. The solution was stirred at room temperature for 3 hours. The mixture was stripped, resulting in 3.3 g of the above-named product.

reactant | Dichloromaleic anhydride | 0.01 mol, 1.7 g | Cl/C/1=C(/C(=O)OC1=O)\Cl | C4Cl2O3
reactant | Bis-(3-chloroallyl)amine | 0.01 mol, 1.7 g | ClC=CCNCC=CCl | C6H9Cl2N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N,N-bis-(3-chloroallyl) dichloromaleic monoamide | 3.3 g | ClC=CCN(C(\C(=C(/C(=O)O)\Cl)\Cl)=O)CC=CCl | C10H9Cl4NO3
